US08633175B2
Step 4: phenylmethyl (2-methyl-2,3-dihydro-1H-inden-2-yl)carbamate
To a solution of 2-methyl-2,3-dihydro-1H-indene-2-carboxylic acid (0.200 g, 1.14 mmol) and triethylamine (0.17 mL, 1.2 mmol) in benzene (2 mL) at 0° C. was added diphenyl phosphorylazide (0.257 g, 1.19 mmol). The mixture was stirred 15 min, benzyl alcohol (0.123 mL, 1.19 mmol) was added and the reaction was heated under reflux for 16 hours. Upon cooling, the mixture was diluted with 10% HCl and extracted with ethyl acetate (2×25 mL). Combined organics were washed with brine, dried over Na2SO4 and concentrated in vacuo. The residue was purified by flash chromatography (EtOAc/hexanes) affording the title compound. 1H NMR (400 MHz, CDCl3) δ ppm 1.55 (s, 3H), 2.98 (d, J=15.9 Hz, 2H), 3.28 (d, J=15.9 Hz, 2H), 7.12-7.18 (m, 4H), 7.29-7.37 (m, 5H).

reactant | 2-methyl-2,3-dihydro-1H-indene-2-carboxylic acid | 1.14 mmol, 0.200 g | CC1(CC2=CC=CC=C2C1)C(=O)O | C11H12O2
reactant | triethylamine | 1.2 mmol, 0.17 mL | C(C)N(CC)CC | C6H15N
reactant | diphenyl phosphorylazide | 1.19 mmol, 0.257 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | benzyl alcohol | 1.19 mmol, 0.123 mL | C(C1=CC=CC=C1)O | C7H8O
solvent | benzene | 2 mL | C1=CC=CC=C1 | C6H6
solvent | HCl | Cl | ClH
product | phenylmethyl (2-methyl-2,3-dihydro-1H-inden-2-yl)carbamate | CC1(CC2=CC=CC=C2C1)NC(OCC1=CC=CC=C1)=O | C18H19NO2
